US07759518B2
N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)phenyl)propane-2-sulfonamide
According to the general procedure A, 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)benzene-1,2-diamine was reacted with isopropylsulfonyl chloride to obtain the desired product. Yield: 39%. 1H-NMR (500 MHz, CDCl3): δ=7.50-7.43 (m, 1H), 7.35-7.34 (m, 1H), 7.27-7.26 (m, 1H), 7.15-7.09 (q, 1H, J=1.6 Hz), 6.62 (s, 1H, br), 6.22-6.18 (q, 1H, J=1.5 Hz), 5.65 (s, 1H, br), 3.30-3.28 (m, 1H), 1.38-1.37 (d, 6H, J=1.2 Hz); m/z=469 [M−I]−.

reactant | 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)benzene-1,2-diamine | FC1=CC=C(C(=C1F)NC1=C(C=C(C=C1)I)F)N | C12H8F3IN2
reactant | isopropylsulfonyl chloride | C(C)(C)S(=O)(=O)Cl | C3H7ClO2S
product | N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)phenyl)propane-2-sulfonamide | Yield: 39% | FC=1C(=C(C=CC1F)NS(=O)(=O)C(C)C)NC1=C(C=C(C=C1)I)F | C15H14F3IN2O2S
